US09353107B2
Step-iii: N-(5-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxyphenyl)methanesulfonamide
Using similar reaction conditions as described in step-iii of example-1, N-(5-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxyphenyl)methane sulfonamide (105 mg, 0.1582 mmol) was hydrolyzed by lithium hydroxide (34 mg, 0.791 mmol) in THF/methanol/water (15/7.5/4 ml) to yield 13 mg of the titled compound. 1H NMR (CD3OD, 300 MHz): δ 8.556-8.551 (d, 2H), 8.51-8.50 (d, 1H), 8.28 (s, 1H), 7.98 (s, 1H), 7.76-7.75 (m, 2H), 7.64-7.76 (dd, 1H), 7.22-7.20 (d, 1H), 6.94-6.84 (m, 2H), 5.44 (s, 2H), 3.99 (s, 3H), 2.99 (s, 3H). MS: m/z=510.1 (M+1), HPLC: 98.06% in method B.

reactant | N-(5-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxyphenyl)methane sulfonamide | 0.1582 mmol, 105 mg | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C=3C=CC(=C(C3)NS(=O)(=O)C)OC)S(=O)(=O)C3=CC=C(C)C=C3)C=C(C1)F | C32H27F2N5O5S2
reactant | lithium hydroxide | 0.791 mmol, 34 mg | [OH-].[Li+]
solvent | THF methanol water | 4 ml | C1CCOC1.CO.O
product | N-(5-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxyphenyl)methanesulfonamide | 13 mg | FC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C=3C=CC(=C(C3)NS(=O)(=O)C)OC)C=C(C1)F | C25H21F2N5O3S
